US04009273
A solution of 1.34 ml of bromine in 10 ml of carbon tetrachloride was added to a solution of 5 g of 10,11-dihydro-[5H]-dibenzo (a,d) cycloheptene-11-one in 60 ml of carbon tetrachloride cooled to 0° C and after stirring for 30 minutes at room temperature, the insolubles were filtered off. The filtrate was distilled to dryness under reduced pressure to obtain 6.6 g of raw product which was crystallized from methanol to obtain 10-bromo-10,11-dihydro-[5H]-dibenzo (a,d) cycloheptene-11-one melting at 82°-84° C. The product was identical to that described by Rigaudy et al [Bull. Soc. Chim., 1959, p. 638].

reactant | bromine | 1.34 ml | BrBr | Br2
reactant | 10,11-dihydro-[5H]-dibenzo (a,d) cycloheptene-11-one | 5 g | C1=CC=CC=2CC3=C(CC(C21)=O)C=CC=C3 | C15H12O
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 10-bromo-10,11-dihydro-[5H]-dibenzo (a,d) cycloheptene-11-one | BrC1C(C2=C(CC3=C1C=CC=C3)C=CC=C2)=O | C15H11BrO
